US06900345B2
(3R,4S)-4-Boc-amino-3-hydroxytetrahydrofuran
(3R,4S)-4-Amino-3-hydroxytetrahydrofuran hydrochloride (Scott et al, J. Org. Chem., 62, 4197 (1997); 0.75 g, 5.37 mmol) in dichloromethane (10 ml) was treated with triethylamine (0.8 ml) and t-butyl dicarbonate (1.3 g). The reaction was stirred at 20° C. for 18 h. The reaction mixture was diluted with ether (20 ml) washed with water, 5% aqueous citric acid and brine, dried and partially evaporated under reduced pressure, to give a white solid. This was collected, washed with hexane and dried under reduced pressure to give the title compound, (0.64 g, 58%). NMR (CDCl3) 1.45 (9H, s), 3.0 (1H, bs), 3.6 (1H, dd), 3.7 (1H, dd), 3.95 (1H, m), 4.1 (2H, m), 4.28 (1H, m), 4.7 (1H, bm).

reactant | (3R,4S)-4-Amino-3-hydroxytetrahydrofuran hydrochloride | 5.37 mmol, 0.75 g | Cl.N[C@@H]1[C@H](COC1)O
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl dicarbonate | 1.3 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ether | 20 ml | CCOCC | C4H10O
product | (3R,4S)-4-Boc-amino-3-hydroxytetrahydrofuran | 0.64 g, 58% | C(=O)(OC(C)(C)C)[C@@H]1[C@H](C(OC1)N)O | C9H17NO4
